US07157464B2
Synthesis of 1-(4-Trifluoromethoxy-phenyl)-piperazine
Piperazine (0.588 g, 6.84 mmol), Pd(II)acetate (0.027 g, 0.123 mmol), sodium t-butoxide (0.837 g, 10.06 mmol) and BINAP (0.154 g, 0.286 mmol) were stirred at room temperature in 10 mL dry toluene for 15 min. 4-trifluoromethoxy bromo benzene (1.5 g, 6.22 mmol) in 10 mL dry toluene was added into the reaction mixture. Then the reaction mixture was refluxed at 110° C. for 20 hrs. The reaction mixture was filtered through a celite bed, washed with toluene, concentrated, ethyl acetate added and then extracted with 1.5 (N) aqueous HCl solution three times. The combined aqueous layers were washed with diethyl ether. The aqueous layer was neutralized with 10% aqueous sodium hydroxide solution and then extracted with ethyl acetate three times. The combined ethyl acetate layers were washed with water and saturated brine solution, dried over anhydrous sodium sulfate and concentrated to afford the product.

reactant | Piperazine | 6.84 mmol, 0.588 g | N1CCNCC1 | C4H10N2
reactant | sodium t-butoxide | 10.06 mmol, 0.837 g | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.286 mmol, 0.154 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 4-trifluoromethoxy bromo benzene | 6.22 mmol, 1.5 g | FC(OC1=CC=C(C=C1)Br)(F)F | C7H4BrF3O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Trifluoromethoxy-phenyl)-piperazine | FC(OC1=CC=C(C=C1)N1CCNCC1)(F)F | C11H13F3N2O
